US07750017B2
Step 2: Preparation of 2-(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}[1]benzothieno[2,3-d]pyrimidin-7-yl)ethyl sulfamate
To a solution of 2-(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}[1]benzothieno[2,3-d]pyrimidin-7-yl)ethanol (35 mg, 0.08 mmol, 1 equiv) in N,N-Dimethylacetamide (2 mL) was added chlorosulfonamide (87 mg, 0.76 mmol, 10 equiv) under nitrogen. The reaction mixture was stirred at rt for 15 h. The solvent was concentrated in vacuo. The crude material was separated by pre-HPLC to give a white solid (18.6 mg, 43%) as product. 1H-NMR (DMSO-d6) δ 9.0 (broad s, 1H), 8.60 (d, J=4.6 Hz, 1H), 8.54 (s, 1H), 8.53 (d, J=8.5 Hz, 1H), 8.03 (s, 1H), 7.88 (t, 1H), 7.77 (d, J=2.2 Hz, 1H), 7.59 (d, J=7.8 Hz, 1H), 7.54 (m, 2H), 7.37 (t, 1H), 7.26 (d, J=8.7 Hz, 1H), 5.32 (s, 2H), 4.36 (t, 2H), 3.19 (t, 2H); LCMS RT=3.08 min, [M+H]+=542.10

reactant | 2-(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}[1]benzothieno[2,3-d]pyrimidin-7-yl)ethanol | 0.08 mmol, 35 mg, 1 equiv | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)CCO | C24H19ClN4O2S
reactant | chlorosulfonamide | 0.76 mmol, 87 mg, 10 equiv | ClS(=O)(=O)N | ClH2NO2S
solvent | N,N-Dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
product | 2-(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}[1]benzothieno[2,3-d]pyrimidin-7-yl)ethyl sulfamate | 18.6 mg, 43% | S(N)(OCCC1=CC2=C(C=C1)C1=C(N=CN=C1NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl)S2)(=O)=O | C24H20ClN5O4S2
